Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I accidentally sent pictures of cutting wrists to my 
boyfriend."

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ is a ___ yo F senior at ___, international student from
___, PPHx of trauma, depression, dissociative identity
disorder, no past SAs or psychiatric hospitalizations, who
presented to the ___ ED via EMS in the setting of sending a
photo of cut wrists to her boyfriend who called ___ police.
Psychiatry was consulted for a safety assessment.

___ EMS RUN REPORT:
___ y\o female found ambulatory at home with ___ requesting
psych evaluation, on arrival the pt was alert\oriented x 4 warm
dry, police reported the pt has been having suicidal thoughts 
and
was looking at pictures of cut wrists and sent one to her
boyfriend who then called school police who then called ___, the
pt admitted to having suicidal thoughts but did not mean to send
a picture to her boyfriend, pt was very cooperative with EMS and
___ and was transported to BID without incident, no obvious
trauma."

Patient states that since 3 months ago, she has been having
chronic suicidal thoughts, but that since yesterday, they have
worsened. While intermittent, during these periods of
suicidality, she feels that she does not have a reason to live,
feels anxious, has poor self-esteem, feels worthless/guilty (her
other personalities tell her every morning that she is
worthless), and anxious. She shares that as she is nearing
graduation, she has been stressed due to an overloaded workload
this semester, and that she will likely have to go back home to
___ after graduating which is distressing to her as she feels
that this will likely negative impact her relationship with her
boyfriend ___ who lives in ___. She also shares that she has a
paper due tomorrow and she still has 6 pages left to write, 
which
further exacerbated the anxiety. Also, her boyfriend ___, has
been "kind of impatient and mat at me because I have been 
calling
him too much" recently (states she calls him 7 times a day).

Around 16:00, patient states that she felt suicidal as described
per above, and she wanted to die, even though she did not think
she would really go through with any plan. She began searching
for photos of "cutting your hand" on her phone (states "because
it's the most common way of suicide") and for 30 minutes looked
through these photos. She then felt dizzy and fell asleep. When
she came to, ___ had been calling her and when she picked up, he
asked her why she had sent photos of cut wrists to him. She
states she was unaware she did so, and believes she may have
accidentally pressed buttons on her phone, sending the picture
with "a bunch of random letters". ___ then told her that he had
called the police, but then after they spoke, he tried to call
police again to cancel taking her to the hospital as she had
shown him that she had not done anything. However, it was too
late and police and EMS showed up at her apartment.

Since getting to the ED, "I feel better" but still endorses
feeling depressed. Shares that she had depression for the first
time in the ___ in the setting of her relationship
with her boyfriend ___. "I'm always very insecure, I worry about
many things". States that she visited ___ for one week in ___, rented an ___ room, and met ___ (owner) who is a
___. Since then, they have been together although
mostly only seeing each other through FaceTime; while the 
patient
describes the relationship as "going well", she is also stressed
that she constantly feels insecure, anxious, and needy.
"Sometimes I can be very annoying, depressed, or crazy". When
asked what she meant by "crazy", refers to her multiple
personalities of Dissociative Identity Disorder and states that
___ has been very understanding and supportive of her DID. 
Shares
that she has been afraid that some of her personalities may "go
crazy" and do something to hurt herself.

States that she has had DID since age ___, but that she did not
"discover it" until she met ___, who on one morning, woke up and
saw one of her personalities, 'Apple', who is a little girl.
Apple was very scared because she did not know where she was and
was trying to escape from ___ apartment. Patient believes 
___
has been stuck between the ages of ___ to ___ because this is when
she "thinks" she was raped by a classroom teacher. She is unable
to recall details as "this is not my memory, it is Apple's".
However states that since then, she continues to have nightmares
about the assault twice a week ("___ has nightmares of being
raped and being put into a storage room"), needs to keep lights
on at night when she sleeps, and flashbacks (unsure of frequency
as she believes Apple has them). Shares that she has 10 active
personalities, ___ being the primary one, and that there are
many inactive personalities which are being "swallowed" by 
___.

Reports her current mood as "chill". Denies recent anhedonia
(still has been enjoying jazz music and painting recently, 
___
says doing art can be helpful for us, so I do it"). Endorses 
mild
appetite loss since starting sertraline 1 month ago with a 
slight
weight loss of 1.2 kg. Endorses 3 months of psychomotor
retardation when trying to get out of bed, ___ year of low energy
level, few years of poor concentration, ___ years of difficulty
falling asleep (clonidine has been helping). Feels hopeless 
about
the future after graduation, primarily as parents want her to
return to ___ and she will be separated from ___. 

Currently denies SI, describes mood as "chill", and states she
would like to be discharged so that she can go to class tomorrow
and ask her professor for an extension. "I think I will be safe
at home".

COLLATERAL:
___. ___ ___ (___ CLINICIAN)
___ (Psychiatrist, at ___) is very familiar with 
patient.
Last seen ___. Patient has consistently presented herself 
with
symptoms of dissociative identity disorder, and the clinicians 
at
___ have seen her multiple personalities which have been
convincing of the diagnosis. Main is ___ (boss/adult), ___
(little girl), ___ (suicidal), ___ (just swallowed by
___, shows up to clinic in different voices/acting like
different people. Went home for holidays to ___. Has been
depressed, on Zoloft, intermittent SI but no SAs. Visit home 
went
better than expected. Senior and will graduate, will likely have
to go to ___, which is a stressor. 

Sertraline 50 mg daily started ___ (initiated at 25 mg)
Clonidine 0.1 qhs (started earlier in ___

First came to ___ in ___. 
Denied
past psychiatric history. Spoke to professor about dissociative
identity disorder, and professor sent her to clinic. Patient has
had lifelong awareness. Depression got more prominent after
___ break (after ___, main problem now is depression.
___ (suicidal personality) is only present 5% of the time, and
appears in the setting of alcohol use. Despite
stressors/psychiatric history, patient has done academically
pretty well. No hx of hospitalizations.

___ (BOYFRIEND) ___
Patient sent him a photo of a hand (clearly not hers) with a
carving in it saying "sorry" last week. When he confronted her
about it, she was apologetic; patient has appeared to be more
depressed in the past week. Today, patient was requiring a lot 
of
attention via phone, and at one point, he told her that he is
tired and is going to take a shower. "I think she wanted to
trigger me", and he got a photo of a hand ("I wasn't sure if it
was her or not") that was being cut at the wrist. He called her 
a
few times but she did not answer. "I got pissed, for her, 
calling
the police is worse than death, I might as well as kill her; I
wanted to show her that I don't fuck around with this stuff". He
called BU police, and then afterwards, called patient again who
did pick up this time. When he told her he called the police, 
she
was upset and asked why; when he told her that she was sending
him the photo, she appeared surprised and it was not until he
told her to review her texts did she realize what she did. He
states that he does not actually have concerns that she would SA
or self-harm, and that "What she needs is a DID specialist".

Patient has DID, personalities are to "create memory loss for 
her
childhood trauma". States that since starting psychotropics, she
has "split" less into her personalities, which has caused her to
feel more depressed. States that personalities sometimes cause
her to physically look different, eg with less acne or in "ways 
I
can't describe it, it's not just makeup and hair changes". 
States
that her childhood trauma is due to being raped by a priest in
___ when she was between the ages of ___ to ___. He believes that
he is the one who can best take care of her as he is trying to
find a DID specialist for her, but that in the recent trip to
home this ___ break, the patient's mother has "brainwashed 
her
and made her forget about me, because I'm a ___, and
they care about class". States that since coming back to the ___,
the patient had forgotten about him until one of her other
personalities overrode and called him, which caused her to
remember him again.

 
Past Medical History:
 
PAST PSYCHIATRIC HISTORY:
Past diagnoses: Depression, DID
Hospitalizations: Denies
Psychiatrist: Dr. ___ @ ___. Has gone to ___ outpatient
clinic 3 months ago because she wanted to get help regarding 
DID,
"but they didn't know much about DID" and she did not find it
helpful, so she stopped going after 2 visits.
Therapist: None
Medication and ECT trials: Sertraline, clonidine
Self-injury/Suicide attempts: Denies
Harm to others: Denies
Trauma: Per HPI

PAST MEDICAL HISTORY:
PCP: ___ 
___ trauma: Denies
Seizures: Denies
PMHx: Denies

 
Social History:
___
Family History:
Fam Dx: Denies
Fam Hospitalizations: Denies
Fam Treatment Hx/Med Trials: Denies
Fam Hx Suicide: Denies
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
*VS: T 97.9, HR 85, BP 125/80, RR 18, SpO2 99%RA  
 
NEUROLOGICAL  
Station and Gait: Not observed; patient evaluated in ED bed
Tone and Strength: Normal bulk; moves all extremities
anti-gravity
Abnormal Movements: No tics, tremors, evidence of EPS
 
COGNITION 
Wakefulness/alertness: Awake and alert
Attention: MOYb with 0 errors
Orientation: Oriented to person, place, situation, but error on
time. Reports date as ___. When told that it is
___, guesses the date as ___
Executive function (go-no go, Luria, trails, FAS): Not tested
Memory: 
- ___ registration
- ___ spontaneous recall after 5 min
- States current president as ___, prior one as ___, and
one before as ___. When told ___ is president,
appears very surprised and says "Oh, he got elected?"
Fund of knowledge: See above regarding presidents
Calculations: $1.75 = 5 quarters
Abstraction: 
- "Don't judge a book by its cover" = "Inside is more important"
- Orange/apple = "fruit"
- Biccyle/train = "communication tool"
Visuospatial: Not assessed
Language: Native ___ speaker, speaks fluent ___ with
slight accent, no paraphasic errors, appropriate to conversation

MENTAL STATUS
Appearance: ___ yo ___ woman appearing younger than stated
age, short statured, shoulder-length black hair appears somewhat
unkempt/unwashed, mild acne on face, wearing hospital gown, in 
no
apparent distress but appears very timid
Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
Attitude: Cooperative, timid, engaged, friendly
Mood: "Chill"
Affect: Restricted/flat, reactive at times (slight smile),
anxious/timid
Speech: Normal rate, quiet volume, normal prosody
Thought process: Linear, coherent, goal-oriented, no loose
associations
Thought Content:
- Safety: Denies SI/HI   
- Delusions: No evidence of paranoia, etc. 
- Obsessions/Compulsions: No evidence based on current encounter
- Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
Insight: Limited
Judgment: Poor

============================================

DISCHARGE PHYSICAL EXAM:

*VS: T 97.8 BP 99/65 HR 78 RR 16 ___ ___nd Gait: Narrow base and stride length with good arm
swing. 
Tone and Strength: Normal bulk; moves all extremities
anti-gravity
Abnormal Movements: No tics, tremors, evidence of EPS

MENTAL STATUS
Appearance: ___ yo ___ woman appearing younger than stated
age, short statured, shoulder-length black hair appears somewhat
unkempt/unwashed, mild acne on face, wearing hospital gown with
drink stains on it, in no apparent distress but appears very
timid, mildly anxious
Behavior: Sitting in a chair, appropriate eye contact, no
psychomotor agitation or retardation
Attitude: Cooperative, timid, engaged, friendly
Mood: "I'm better"
Affect: reactive (smiling appropriately), though somewhat
anxious/timid
Speech: Normal rate, quiet volume, slightly child-like quality
Thought process: Linear, coherent, goal-oriented, no loose
associations
Thought Content:
- Safety: Denies SI/HI   
- Delusions: No evidence of paranoia, etc. 
- Obsessions/Compulsions: No evidence based on current encounter
- Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
Insight: Fair
Judgment: Fair

 
Pertinent Results:
LABS:
___ 09:38PM BLOOD WBC-12.8* RBC-4.61 Hgb-13.5 Hct-39.6 
MCV-86 MCH-29.3 MCHC-34.1 RDW-12.0 RDWSD-37.6 Plt ___
___ 09:38PM BLOOD Neuts-64.0 ___ Monos-7.4 Eos-0.5* 
Baso-0.5 Im ___ AbsNeut-8.16* AbsLymp-3.46 AbsMono-0.95* 
AbsEos-0.07 AbsBaso-0.06
___ 09:38PM BLOOD Glucose-133* UreaN-12 Creat-0.6 Na-138 
K-4.0 Cl-100 HCO3-25 AnGap-13
___ 09:38PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. 

2. PSYCHIATRIC:
#) Major depressive disorder, recurrent
- r/o PTSD
- Dependent, borderline traits
- r/o dissociative identity disorder 

Ms. ___ is a ___ yo F senior at ___, ___ from 
___, PPHx of trauma, depression, dissociative identity 
disorder, no past SAs or psychiatric hospitalizations, who 
presented to the ___ ED via EMS in the setting of sending a
photo of cut wrists to her boyfriend who called ___ police.

Initial interview was notable for worsening depressive symptoms 
of depressed mood, SI, worthlessness/guilt, lack of reason to 
live, diminished appetite, psychomotor retardation, low energy, 
poor concentration, difficulty with sleep induction, and
hopelessness in the setting of psychosocial stressors of a heavy 
workload this semester, impending graduation, and concerns about 
being separated from her boyfriend once she returns to ___. 
Patient also maintained an extensive history of DID with 
multiple personalities that are likely tied to a traumatic event 
in her
childhood.

Collateral was notable for worsening depression in the past 
week, as well as DID, but a lack of SAs in the past, as well as 
no past psychiatric hospitalizations, and the patient being 
high-functioning given her extended history of DID/trauma and
recent depression. She also noted that her anxiety and 
depressive symptoms increased after the Sertraline was increased 
from 25mg to 50mg in the last week. 

The current presentation is suggestive of a primary mood 
disorder (major depressive disorder by symptoms and duration), 
likely secondary to recent increase in Sertraline. She is no 
longer expressing SI or depressive symptoms. She is more engaged 
today and eager to return to school to complete her schoolwork. 
She
continues to have variable personalities, though she is able to 
talk about herself independently. She has an extensive history 
of trauma which is likely a large contributor. 

She was continued on Sertraline 50mg daily and Clonidine 0.1mg 
while inpatient. 

3. SUBSTANCE USE DISORDERS: N/A

4. MEDICAL: N/A

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient sometimes attended these groups that focused on teaching 
patients various coping skills. She was noted to be odd and 
somewhat reserved.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
--___ (BOYFRIEND) ___
--___. ___ ___ (___ CLINICIAN)
---Psychiatrist: Dr. ___

#) Guardianship (if applicable): N/A

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon increased 
depressive symptoms, thoughts of cutting her wrists. Their 
static factors noted at that time include history of abuse, 
chronic mental illness, age and presence of a concurrent 
personality disorder.  The modifiable risk factors, including 
suicidal ideation, disorganized and unpredictable behavior, 
hopelessness, insomnia and feeling trapped. This was addressed 
with therapy, continuing outpatient medications and providing a 
safe, structured environment on the unit. Finally, the patient 
is being discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, spirituality, lack of 
irritability/agitation, good coping skills, positive therapeutic 
relationship with outpatient providers, no history of substance 
use disorder. Overall, based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. CloNIDine 0.1 mg PO QHS 

 
Discharge Medications:
1.  CloNIDine 0.1 mg PO QHS  
2.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, PTSD, r/o dissociative identity disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___